US06562849B1
1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-[4-(trifluoromethyl)benzyl]urea (exemplification compound number 2-82)
To a solution of 1,1′-carbonyldiimidazole (130 mg) in anhydrous N,N-dimethylformamide (8 ml) was added 4-(trifluoromethyl)benzylamine (135 mg) and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg) and triethylamine (153 mg) and the mixture was stirred at 60° C. for 1 hour and then allowed to stand at room temperature overnight. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate as the eluant. The product insoluble in methanol was isolated by filtration and further purified by preparative reverse phase high performance liquid chromatography using acetonitrile:water=50:50→60:40 as the eluant to afford the title compound (102 mg, mp 127.9-132.4° C.).

reactant | 1,1′-carbonyldiimidazole | 130 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(trifluoromethyl)benzylamine | 135 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-[4-(trifluoromethyl)benzyl]urea | 102 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC=3C=C(C=CC3)NC(=O)NCC3=CC=C(C=C3)C(F)(F)F)C=C1 | C34H28F3N5O5S
